US06613773B2
(E)-Methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3-methoxypropenoate (1.0 g), was treated with sodium methanethiolate (1.09 g) at room temperature in chloroform (15 ml) and water (10 ml) in the presence of a catalytic amount of tetrabutylammonium bromide. After stirring overnight, the chloroform layer was separated and the remaining aqueous layer was further extracted with chloroform. The combined chloroform layers were washed with water, dried and concentrated to give an orange oil. Chromatography using a mixture of ether and hexane (2:1) gave (E)-methyl 2-[2-(6-methylthiopyrimidin-4-yloxy)phenyl]-3-methoxypropenoate (0.92 g, 89% yield) as a pale yellow oil; 1H NMR: δ 2.52(3H,s), 3.59(3H,s), 3.73(3H,s), 6.55(1H,s), 7.17(1H,d), 7.20-7.55(3H,m), 7.45(1H,s), 8.57(1H,s) ppm.

reactant | (E)-Methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | 1.0 g | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C15H13ClN2O4
reactant | sodium methanethiolate | 1.09 g | C[S-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | CCCCCC | C6H14
product | (E)-methyl 2-[2-(6-methylthiopyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | 0.92 g, 89% yield | CSC1=CC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C16H16N2O4S
